US09079866B2
1-Bromo-2-fluoro-4-iodobenzene (6.30 g, 20.9 mmol) and (2-(N-methyl-sulfamoyl)-phenyl)boronic acid (4.50 g, 20.9 mmol) were added to a 250 mL flask equipped with a stir bar and reflux condenser. 1,4-Dioxane (50 mL) and Na2CO3 (2 M, 50 mL) were added. Argon was bubbled through the solvent while it was rapidly stirred for 10 minutes before Pd(dppf)Cl2.CH2Cl2 (766 mg, 1.05 mmol) was added and the reaction was stirred at 80° Celsius for 15 hours. The reaction was then diluted with 50 mL of water and extracted with ethyl acetate (1×50 mL, 3×100 mL). The combined organic extracts were dried with Na2CO3, filtered and concentrated to dryness. The crude product was purified by FCC to give 4′-bromo-3′-fluoro-N-methyl-[1,1′-biphenyl]-2-sulfonamide. 1H NMR (500 MHz, CDCl3) δ 8.17-8.11 (m, 1H), 7.66-7.59 (m, 2H), 7.59-7.54 (m, 1H), 7.33-7.29 (m, 1H), 7.28-7.23 (m, 1H), 7.20-7.13 (m, 1H), 3.67-3.56 (dd, J=10.1, 4.5, 1H), 2.46-2.43 (d, J=5.3, 3H).

reactant | 1-Bromo-2-fluoro-4-iodobenzene | 20.9 mmol, 6.30 g | BrC1=C(C=C(C=C1)I)F | C6H3BrFI
reactant | (2-(N-methyl-sulfamoyl)-phenyl)boronic acid | 20.9 mmol, 4.50 g | CNS(=O)(=O)C1=C(C=CC=C1)B(O)O | C7H10BNO4S
reactant | Na2CO3 | 2 M, 50 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | CH2Cl2 | 1.05 mmol, 766 mg | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
solvent | 1,4-Dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 4′-bromo-3′-fluoro-N-methyl-[1,1′-biphenyl]-2-sulfonamide | BrC1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)NC)F | C13H11BrFNO2S
